US05266283
5-t-butyl-3-(1-methylcyclohexyl)salicylaldehyde
4-t-butyl-2-(1-methylcyclohexyl)phenol (7.0 g, 0.028 mole) was dissolved in 10 ml of absolute ethanol in a 100 ml round bottom flask equipped with a water-cooled condenser. Sodium hydroxide (11.4 g, 0.28 mole) was dissolved in 10 ml water and added while still hot to the solution of phenol. Chloroform (6.8 g, 0.057 mole) was added in 2 to 3 ml portions over a 10-minute period. The resulting brown mixture was stirred for 1 hour while it cooled to ambient temperature. The mixture was added to 25 ml of 5M hydrochloric acid. The organic layer was isolated in a separatory funnel and dried over anhydrous magnesium sulfate. The mixture was filtered and rotoevaporated to a thick syrup to an assumed yield of 30% of the crude product with an IR spectrum having the characteristic aldehyde carbonyl stretching frequency. The product was used without further purification.

reactant | 4-t-butyl-2-(1-methylcyclohexyl)phenol | 0.028 mole, 7.0 g | C(C)(C)(C)C1=CC(=C(C=C1)O)C1(CCCCC1)C | C17H26O
reactant | Sodium hydroxide | 0.28 mole, 11.4 g | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Chloroform | 0.057 mole, 6.8 g | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 5M, 25 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 5-t-butyl-3-(1-methylcyclohexyl)salicylaldehyde | yield of 30% | C(C)(C)(C)C1=CC(=C(C(C=O)=C1)O)C1(CCCCC1)C | C18H26O2
